US07652051B2
Synthesis of {5-[4-(pyridin-4-yloxy)-phenyl]-4H-[1,2,4]triazol-3-yl]-(4-trifluoromethoxy-phenyl)-amine trifluoroacetic acid salt
4-[5-(4-trifluoromethoxy-phenylamino)-4H[1,2,4]triazol-3-yl]-phenol (106.0 mg, 0.315 mmol) was dissolved in 2 mL of anhydrous DMF in a 5 mL microwave vial (Personal Chemistry). Solid potassium bis(trimethylsilyl)amide (157.2 mg, 0.788 mmol) was added and the reaction mixture was stirred with heating at 80° C. for 15 min, then 4-chloropyridine hydrochloride (56.7 mg, 0.378 mmol) was added, followed by anhydrous K2CO3 (44.0 mg, 0.315 mmol). Then the vial was capped and microwaved at 250° C. for 20 min. Then the reaction mixture was diluted with ca. 1 mL of MeOH, filtered through 0.22 um syringe filter and purified by reverse-phase preparative HPLC in acetonitrile/water system with 0.01% TFA. The product was isolated as a TFA salt (66.5 mg of off-white solid).

reactant | 4-[5-(4-trifluoromethoxy-phenylamino)-4H[1,2,4]triazol-3-yl]-phenol | 0.315 mmol, 106.0 mg | FC(OC1=CC=C(C=C1)NC=1NC(=NN1)C1=CC=C(C=C1)O)(F)F | C15H11F3N4O2
reactant | potassium bis(trimethylsilyl)amide | 0.788 mmol, 157.2 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-chloropyridine hydrochloride | 0.378 mmol, 56.7 mg | Cl.ClC1=CC=NC=C1
reactant | K2CO3 | 0.315 mmol, 44.0 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH | ca. 1 mL | CO | CH4O
product | {5-[4-(pyridin-4-yloxy)-phenyl]-4H-[1,2,4]triazol-3-yl]-(4-trifluoromethoxy-phenyl)-amine trifluoroacetic acid salt | 66.5 mg | FC(C(=O)O)(F)F.N1=CC=C(C=C1)OC1=CC=C(C=C1)C=1NC(=NN1)NC1=CC=C(C=C1)OC(F)(F)F | InChI=1S/C20H14F3N5O2.C2HF3O2/c21-20(22,23)30-17-7-3-14(4-8-17)25-19-26-18(27-28-19)13-1-5-15(6-2-13)29-16-9-11-24-12-10-16;3-2(4,5)1(6)7/h1-12H,(H2,25,26,27,28);(H,6,7)
